US08754079B2
249.2 4-[4-Fluoro-2-((1R,2R)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
A mixture of 1.75 g 4-[4-fluoro-2-((1R,2R)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester, 4M sodium hydroxide solution, 20 ml THF and 20 ml MeOH was stirred at rt overnight. The reaction mixture was acidified by addition of hydrochloric acid, diluted with 80 ml water and filtered. The solid was washed with water and dried in vacuo at 65° C.

reactant | 4-[4-fluoro-2-((1R,2R)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.75 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@H]2[C@@H](CCCC2)OC)S1)C | C22H24FN3O4S
reactant | sodium hydroxide | 4M | [OH-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | MeOH | 20 ml | CO | CH4O
product | 4-[4-Fluoro-2-((1R,2R)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2[C@@H](CCCC2)OC | C21H22FN3O4S
